US04226869
7-Chloro-10-[(7-diethylaminoheptyl)amino]-2-methoxypyrido[3,2-b]quinoline dihydrochloride
A mixture of 2.8 g. of 7,10-dichloro-2-methoxypyrido [3,2-b]quinoline, 2.0 g. of 7-diethylaminoheptylamine and 6.5 g. of phenol is stirred on a steam bath for 3 hours. The reaction is cooled, 20 ml. of 95% alcohol is added and this mixture is poured into a mixture of 200 ml. of acetone and 2.5 ml. of concentrated hydrochloric acid. The resulting solution is cooled in ice. The solid is collected and recrystallized from n-propanol:ethyl acetate (50:50), giving the desired product as yellow crystals, mp. 170°-174° C. (dec.).

reactant | 7,10-dichloro-2-methoxypyrido [3,2-b]quinoline | ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)Cl | C13H8Cl2N2O
reactant | 7-diethylaminoheptylamine | C(C)N(CCCCCCCN)CC | C11H26N2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 7-Chloro-10-[(7-diethylaminoheptyl)amino]-2-methoxypyrido[3,2-b]quinoline dihydrochloride | Cl.Cl.ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)NCCCCCCCN(CC)CC | InChI=1S/C24H33ClN4O.2ClH/c1-4-29(5-2)16-10-8-6-7-9-15-26-23-19-12-11-18(25)17-21(19)27-20-13-14-22(30-3)28-24(20)23;;/h11-14,17H,4-10,15-16H2,1-3H3,(H,26,27);2*1H
